US09302991B2
<Step-6>:(6-(2,2,2-trifluoroethoxy)pyridin-2-yl)methanamine
A mixture of 2-(azidomethyl)-6-(2,2,2-trifluoroethoxy)pyridine (Step-5, 0.44 g, 1.90 mmol) and palladium 10% on carbon (0.070 g) in methanol (12 mL) is vigorously stirred at room temperature under hydrogen atmosphere (0.3 MPa) for 3 hours. After filtration through a pad of celite, the filtrate is concentrated in vacuo. The residue is diluted with methanol (4 mL) and applied onto a strong cation exchange cartridge (BondElute(registered trademark) SCX, 1 g/6 mL, Varian Inc.), and the solid phase matrix is rinsed with methanol (5 mL). The crude mixture is eluted with 1M ammonia in methanol (5 mL) and concentrated under reduced pressure to give 0.27 g (68% yield) of the title compound as dark brown oil.

reactant | 2-(azidomethyl)-6-(2,2,2-trifluoroethoxy)pyridine | 1.90 mmol, 0.44 g | N(=[N+]=[N-])CC1=NC(=CC=C1)OCC(F)(F)F | C8H7F3N4O
solvent | methanol | 12 mL | CO | CH4O
catalyst | palladium | [Pd] | Pd
product | (6-(2,2,2-trifluoroethoxy)pyridin-2-yl)methanamine | 0.27 g, 68% yield | FC(COC1=CC=CC(=N1)CN)(F)F | C8H9F3N2O
